* Ideal mos driver
.subckt mosdriver hb hi ho hs li lo vdd vss

.model diode D (is=1.038e-15 n=1 tt=20e-9 cjo=5e-12 rs=0.50 bv=130)

bhigh hoi hs v={if(v(hi, vss) > 0.5, 5, 0)} smoothbsrc=1
rhoi hoi ho 1
choi ho hs 1e-9
blow loi vss v={if(v(li, vss) > 0.5, 5, 0)} smoothbsrc=1
rloi loi lo 1
cloi lo vss 1e-9
dhb vdd hb diode

.ENDS mosdriver